US06310213B1
4[-2-(4-Benzyl-piperidine-1-yl)-ethanesulfonyl]-phenol
To a solution of 40.0 g 4-(2-chloro-ethanesulfonyl)-phenol (181 mmol) in 600 ml CH2Cl2 were added 69.9 g 4-benzylpiperidine (399 mmol). After stirring for 16 h at r. t. the reaction mixture was concentrated to 100 ml and directly purified by chromatography over silica gel (CH2Cl2/MeOH/NH3 19/1/0.1). Recrystallization from ethyl acetatelhexane (2:1) yielded 25 g product (70 mmol, 38%).

reactant | 4-(2-chloro-ethanesulfonyl)-phenol | 181 mmol, 40.0 g | ClCCS(=O)(=O)C1=CC=C(C=C1)O | C8H9ClO3S
reactant | 4-benzylpiperidine | 399 mmol, 69.9 g | C(C1=CC=CC=C1)C1CCNCC1 | C12H17N
solvent | CH2Cl2 | 600 ml | C(Cl)Cl | CH2Cl2
product | 4[-2-(4-Benzyl-piperidine-1-yl)-ethanesulfonyl]-phenol | 70 mmol, 25 g, 38% | C(C1=CC=CC=C1)C1CCN(CC1)CCS(=O)(=O)C1=CC=C(C=C1)O | C20H25NO3S
